US06815528B2
1-(4-Methoxybenzoyl)-2-(N-propylcarbamyl)hydrazine:
Synthesis and isolation were same as for 1-benzoyl-2-(N-propylcarbamyl)hydrazine, using 1.3 g (7.8 mmol) 4-methoxybenzoylhydrazine and 0.9 g (10.5 mmol) of n-propylisocyanate. Yield was 1.8 g (92%). MS (EI, m/e) calcd for C12H17N3O3 251, found 251 (M+, 1.6); mp 176-179° C.

reactant | 1-benzoyl-2-(N-propylcarbamyl)hydrazine | C(C1=CC=CC=C1)(=O)NNC(NCCC)=O | C11H15N3O2
reactant | 4-methoxybenzoylhydrazine | 7.8 mmol, 1.3 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | n-propylisocyanate | 10.5 mmol, 0.9 g | C(CC)N=C=O | C4H7NO
product | 1-(4-Methoxybenzoyl)-2-(N-propylcarbamyl)hydrazine | COC1=CC=C(C(=O)NNC(NCCC)=O)C=C1 | C12H17N3O3
